US04855314
Methyl 4-[(2-propynylamino)carbonyl]benzoate
Terephthalic acid mono methyl ester (0.775 g) was dissolved in dry pyridine (10 ml) in a N2 atmosphere. The solution was cooled in an ice-water bath, and thionyl chloride (0.44 ml) was added dropwise. The mixture was warmed to room temperature and was stirred for 1 h to give a pale brown suspension. The mixture was re-cooled in an ice-water bath, and a suspension of proparglyamine hydrochloride (413 mg) in pyridine was added rapidly. The mixture was warmed to room temperature and was stirred for 18 h to give a dark solution. The solvent was evaporated in vacuo to give a dark brown gum, which was dissolved in Ea/hexane/acetic acid (1:1:1% v/v) and flash chromatographed using the same solvent system to give a yellow sludge, which was triturated with ER to give the title compound as a white solid, (0.544 g), m.p. 151.5°-153°.

reactant | Terephthalic acid mono methyl ester | 0.775 g | COC(C1=CC=C(C(=O)O)C=C1)=O | C9H8O4
reactant | thionyl chloride | 0.44 ml | S(=O)(Cl)Cl | Cl2OS
reactant | hydrochloride | 413 mg | Cl | ClH
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | N2 | N#N | N2
solvent | hexane acetic acid | CCCCCC.C(C)(=O)O
product | Methyl 4-[(2-propynylamino)carbonyl]benzoate | 0.544 g | C(C#C)NC(=O)C1=CC=C(C(=O)OC)C=C1 | C12H11NO3
